US07888354B2
(2) Preparation of (2R)-1-[3-(4-bromo-2-fluorophenoxy)propyl]-2-methylpyrrolidine
To a suspension of 4-bromo-2-fluorophenol (0.57 g) and cesium carbonate (1.6 g) in acetonitrile (2.5 mL), (2R)-1-(3-chloropropyl)-2-methylpyrrolidine obtained in Example 62-(1) (0.40 g) was added and the mixture was heated to 100° C., at which it was stirred for 4 hours. The reaction mixture was cooled to room temperature and filtered to remove insoluble materials, and the filtrate was concentrated under reduced pressure. The resulting residue was purified by NH-type silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=10:1 to 3:1) to give the titled compound (0.73 g, 94%) as a yellow oil.

reactant | 4-bromo-2-fluorophenol | 0.57 g | BrC1=CC(=C(C=C1)O)F | C6H4BrFO
reactant | cesium carbonate | 1.6 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | acetonitrile | 2.5 mL | C(C)#N | C2H3N
solvent | (2R)-1-(3-chloropropyl)-2-methylpyrrolidine | ClCCCN1[C@@H](CCC1)C | C8H16ClN
product | (2R)-1-[3-(4-bromo-2-fluorophenoxy)propyl]-2-methylpyrrolidine | 0.73 g, 94% | BrC1=CC(=C(OCCCN2[C@@H](CCC2)C)C=C1)F | C14H19BrFNO
